US06127360
Synthesis of 3,3-dimethyl-5-{2-[4-(2-quinolylmethyl)-1-piperazinyl]ethoxy}-2,3-dihydro-1H-indol-2-one
5-(2-Chloroethoxy)-3,3-dimethyl-2,3-dihydroindol-2-one (182 mg, 3.0 mmol) and N--(2-quinolylmethyl)piperazine (690 mg, 3.0 mmol) were mixed, followed by stirring at 150° C. for 3 hours under an argon gas stream. The resulting mixture was allowed to cool down, and was then dissolved in chloroform. The thus-obtained solution was washed with water and then dried over anhydrous sodium sulfate. After the solution was concentrated under reduced pressure, the residue was purified by chromatography on a silica gel column while using chloroform-methanol (10:1) as an eluent. Fractions containing the target compound were collected and then concentrated under reduced pressure. The concentrate was crystallized from n-hexane and was then recrystallized from ethyl acetate-ethyl ether, whereby 240 mg of the title compound were obtained as pale yellow powder (yield: 73%).

reactant | 5-(2-Chloroethoxy)-3,3-dimethyl-2,3-dihydroindol-2-one | 3.0 mmol, 182 mg | ClCCOC=1C=C2C(C(NC2=CC1)=O)(C)C | C12H14ClNO2
reactant | N--(2-quinolylmethyl)piperazine | 3.0 mmol, 690 mg | N1=C(C=CC2=CC=CC=C12)CN1CCNCC1 | C14H17N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dimethyl-5-{2-[4-(2-quinolylmethyl)-1-piperazinyl]ethoxy}-2,3-dihydro-1H-indol-2-one | 240 mg | CC1(C(NC2=CC=C(C=C12)OCCN1CCN(CC1)CC1=NC2=CC=CC=C2C=C1)=O)C | C26H30N4O2
